US07018786B2
A suspension of 10 g (89 mmol) of uracil and 24.6 g of potassium carbonate in 350 mL DMF was stirred for 12 hours at room temperature, after which 16.5 mL (139 mmol) of benzyl bromide was added and the reaction allowed to continue for 2 days at room temperature. The undissolved residue was removed by filtration and the solvent removed from the filtrate under reduced pressure. 150 mL water was added to the residue and the mixture extracted 3 times with 100 mL methylene chloride. The collected methylene chloride fractions were washed with water, dried over MgSO4 and evaporated to dryness under reduced pressure. The residue was treated with a small amount of chloroform/methanol 40:1 from which 1-benzyluracil partially crystallizes. 2.6 g 1-benzyluracil was isolated by filtration and the rest was isolated by preparative column chromatography, using chloroform/methanol 40:1 giving a yield of 3.95 g (22%)(m.p. 168–170° C., Lit. 168–170° C., Kundu et al., J. Chem. Soc. Perkin Trans 1, 1985, 1295).

reactant | uracil | 89 mmol, 10 g | N1C(=O)NC(=O)C=C1 | C4H4N2O2
reactant | potassium carbonate | 24.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl bromide | 139 mmol, 16.5 mL | C(C1=CC=CC=C1)Br | C7H7Br
solvent | DMF | 350 mL | CN(C)C=O | C3H7NO
product | 1-benzyluracil | 2.6 g | C(C1=CC=CC=C1)N1C(=O)NC(=O)C=C1 | C11H10N2O2
